US08110579B2
4.2. [3-(Benzyloxy)-4-chlorophenyl]boronic acid
Add dropwise 374 mL (748 mmol) of a solution of iPrMgCl 2N in THF to a solution of 198 g (575 mmol) of 2-(benzyloxy)-1-chloro-4-iodobenzene in 1.2 L of anhydrous THF under argon and stirred at −50° C., maintaining the temperature between −40 and −50° C. Allow the reaction mixture to return to −10° C. and continue stirring for 1 h. Then add 172 mL (748 mmol) of triisopropyl borate and leave the reaction mixture to return slowly to RT. After stirring for 2 h, treat the mixture with 1 L of aqueous solution of HCl 5N, then extract with ether (2×600 mL). Wash the organic phase with 2×1 L of water, dry over Na2SO4 then concentrate under reduced pressure. Solidify the residue obtained in pentane, filter on a frit and wash with pentane. We thus obtain 113 g of [3-(benzyloxy)-4-chlorophenyl]boronic acid in the form of a white solid.

reactant | iPrMgCl | 2N | C(C)(C)[Mg]Cl
reactant | 2-(benzyloxy)-1-chloro-4-iodobenzene | 575 mmol, 198 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)I)Cl | C13H10ClIO
reactant | triisopropyl borate | 748 mmol, 172 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | HCl | 5N | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 1.2 L | C1CCOC1 | C4H8O
product | [3-(Benzyloxy)-4-chlorophenyl]boronic acid | C(C1=CC=CC=C1)OC=1C=C(C=CC1Cl)B(O)O | C13H12BClO3
